US08466167B2
Step 2: 4-(2-(5-amino-8-methylbenzo[f][1,7]naphthyridin-2-yl)ethyl)-3-methylbenzoyl chloride
A solution of 4-(2-(5-amino-8-methylbenzo[f][1,7]naphthyridin-2-yl)ethyl)-3-methylbenzoic acid (from the previous step) in thionyl chloride was stirred at 60° C. for 3 hour. After cooling to ambient temperature, the reaction mixture was concentrated en vaccuo. The crude material was used for next step without purification.

reactant | 4-(2-(5-amino-8-methylbenzo[f][1,7]naphthyridin-2-yl)ethyl)-3-methylbenzoic acid | NC1=NC2=C(C=3C=C(C=NC13)CCC1=C(C=C(C(=O)O)C=C1)C)C=CC(=C2)C | C23H21N3O2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 4-(2-(5-amino-8-methylbenzo[f][1,7]naphthyridin-2-yl)ethyl)-3-methylbenzoyl chloride | NC1=NC2=C(C=3C=C(C=NC13)CCC1=C(C=C(C(=O)Cl)C=C1)C)C=CC(=C2)C | C23H20ClN3O
